US07312241B2
3-(3,4-Dimethoxyphenyl)-3-(3,5-dimethoxyphenyl)acrylic acid ethyl ester (0.76 g, 2.05 mmol), potassium hydroxide (5 N, 8.10 ml, 20.52 mmol), methanol (6 ml), and H2O (1.5 ml) were mixed and stirred at rt for a couple of hours. The methanol was evaporated in vacuo leaving a clear solution, which was extracted with ether (2×60 ml) to get rid of the impurities. The aqueous phase was acidified with conc. HCl to pH around 23 to form a white precipitation, which was extracted with CH2Cl2 (2×100 ml), dried over MgSO4, filtered and concentrated to give 3-(3,4-dimethoxy-phenyl)-3-(3,5-dimethoxy-phenyl)-acrylic acid as a foamy solid (0.69 g, 98%); mp, 90-920C: 1HNMR (CDCl3) δ 6.90-6.75 (m, 4H, double bond protons and 2COOH), 6.50-6.24 (m, 12H, Ar), 3.92-3.75 (multiple singlets, 24H, 8OCH3), isomer ratio based on 1HNMR close to 43%:57%; Anal. Calcd. For C19H20O6: C, 66.27; H, 5.85. Found: C, 66.02; H, 5.81.

reactant | 3-(3,4-Dimethoxyphenyl)-3-(3,5-dimethoxyphenyl)acrylic acid ethyl ester | 2.05 mmol, 0.76 g | C(C)OC(C=C(C1=CC(=CC(=C1)OC)OC)C1=CC(=C(C=C1)OC)OC)=O | C21H24O6
reactant | potassium hydroxide | 20.52 mmol, 5 N, 8.10 ml | [OH-].[K+]
reactant | methanol | 6 ml | CO | CH4O
reactant | HCl | Cl | ClH
solvent | H2O | 1.5 ml | O | H2O
product | 3-(3,4-dimethoxy-phenyl)-3-(3,5-dimethoxy-phenyl)-acrylic acid | 0.69 g, 98% | COC=1C=C(C=CC1OC)C(=CC(=O)O)C1=CC(=CC(=C1)OC)OC | C19H20O6
